US05124457
1-Benzylpiperazine (Aldrich) (6.12 g) was dissolved in 10 ml deionized water and cooled to 0° C. Concentrated hydrochloric acid (3.6 ml) was added to adjust the pH to 5. After warming to room temperature, 3.6 ml cyclohexanone was added, followed by potassium cyanide (2.4 g) in 6 ml deionized water. The solution slowly became cloudy. After 18 hours, the solid was filtered. The solid was dissolved in chloroform, dried over Na2SO4, filtered and the solvent was removed in vacuo to yield pure 1-benzyl-4-(1-cyanocyclohexyl) piperazine.

reactant | 1-Benzylpiperazine | 6.12 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | hydrochloric acid | 3.6 ml | Cl | ClH
reactant | cyclohexanone | 3.6 ml | C1(CCCCC1)=O | C6H10O
reactant | potassium cyanide | 2.4 g | [C-]#N.[K+]
solvent | water | O | H2O
product | 1-benzyl-4-(1-cyanocyclohexyl) piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C1(CCCCC1)C#N | C18H25N3
